US05607956
1-(2,4-Dimethyl-5-oxazolyl)-1-(3-furyl)ethyl Methyl Ether
1-(3-Furyl)-1-(2,4-dimethyl-5-oxazolyl)ethanol (2 g) in dry N,N-dimethylformamide (15 ml) was added to a stirred suspension of sodium hydride (80%, 300 mg) in dry N,N-dimethylformamide (10 ml) at 0° C. After 20 minutes, methyl iodide (1.5 g) was added dropwise. The mixture was allowed to warm to room temperature and after 30 minutes aqueous sodium hydrogen carbonate was added.

reactant | 1-(3-Furyl)-1-(2,4-dimethyl-5-oxazolyl)ethanol | 2 g | O1C=C(C=C1)C(C)(O)C1=C(N=C(O1)C)C | C11H13NO3
reactant | sodium hydride | 300 mg | [H-].[Na+]
reactant | methyl iodide | 1.5 g | CI | CH3I
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2,4-Dimethyl-5-oxazolyl)-1-(3-furyl)ethyl Methyl Ether | COC(C)(C1=COC=C1)C1=C(N=C(O1)C)C | C12H15NO3
